US06914074B2
1-Chloro-6-methoxy-2-naphthyl trifluoromethanesulfonate
The title compound was prepared by reacting 1-chloro-6-methoxy-2-naphthol (0.70 g, 3.36 mmol) with trifluoromethanesulfonic anhydride (1.23 g, 4.4 mmol) according to intermediate 6 to yield 1.02 g (89%) of a white solid: mp 60-61° C.; 1H NMR (CDCl3): δ 3.95 (3H, s), 7.17 (1H, d, J=2.48 Hz), 7.35 (1H, dd, J=2.50 Hz, J=9.30 Hz), 7.39 (1H, d, J=9.06 Hz), 7.71 (1H, d, J=9.11 Hz), 8.21 (1H, d, J=9.28 Hz); MS (EI) m/z 340/342 (M)+.

reactant | 1-chloro-6-methoxy-2-naphthol | 3.36 mmol, 0.70 g | ClC1=C(C=CC2=CC(=CC=C12)OC)O | C11H9ClO2
reactant | trifluoromethanesulfonic anhydride | 4.4 mmol, 1.23 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | 1-Chloro-6-methoxy-2-naphthyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)OC)Cl)(F)F | C12H8ClF3O4S
